US05929067
4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid N-propyl-N-phenyl-amide
A mixture consisting of 100 mg of 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid, 29.9 mg of N-propyl-aniline, 85.3 mg of propanephosphonic acid anhydride, 154 νl of triethylamine and 2 ml of methylene chloride is left to stand at room temperature for 18 hours. 0.5 ml of 1N potassium carbonate solution is then added and the mixture is shaken vigorously. After separation of the phases, the organic phase is separated off and concentrated by evaporation. Chromatography of the residue over silica gel with methylene chloride/methanol 19:1 yields the title compound in the form of a yellow foam. Rf value=0.63 (methylene chloride/methanol 19:1).

reactant | 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid | 100 mg | CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C(CCC(=O)O)CC1=CC2=CC=CC=C2C=C1 | C25H21F6NO3
reactant | N-propyl-aniline | 29.9 mg | C(CC)NC1=CC=CC=C1 | C9H13N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 1N, 0.5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid N-propyl-N-phenyl-amide | C(CC)N(C(CCC(CC1=CC2=CC=CC=C2C=C1)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O)C1=CC=CC=C1 | C34H32F6N2O2
